US07820707B2
b) Ethyl 1-(2-(3-carbamoyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylamino)-2-oxoethyl)-3-(trifluoromethyl)pyrazole-4-carboxylate
NaH (60% [w/w] suspension in oil, 10 mg, 0.25 mmol) was added to a solution of ethyl-3-(trifluoromethyl)pyrazole-4-carboxylate (25 mg, 0.056 mmol) in DMF (2 mL). The reaction mixture was stirred at RT for 60 min before the addition of 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide. The reaction mixture was heated at 120° C. for 10 min in the microwave. Water (5 μL) was added and the reaction mixture extracted with EtOAc (3×10 mL). The combined EtOAc layers were washed with water (5×5 mL), brine (5 mL), dried over MgSO4, filtered and the solvent removed under reduced pressure to give the crude reaction mixture as a yellow solid (44 mg, 0.01 mmol). Purification by preparative reverse phase HPLC gave the desired product (10 mg, 0.024 mmol, 19%).

reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | ethyl-3-(trifluoromethyl)pyrazole-4-carboxylate | 0.056 mmol, 25 mg | C(C)OC(=O)C=1C(=NNC1)C(F)(F)F | C7H7F3N2O2
reactant | 2-(2-bromoacetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | BrCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C11H13BrN2O2S
reactant | Water | 5 μL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(2-(3-carbamoyl-4,5,6,7-tetrahydrobenzo[b]thiophen-2-ylamino)-2-oxoethyl)-3-(trifluoromethyl)pyrazole-4-carboxylate | 0.024 mmol, 10 mg, 19% | C(N)(=O)C=1C2=C(SC1NC(CN1N=C(C(=C1)C(=O)OCC)C(F)(F)F)=O)CCCC2 | C18H19F3N4O4S
